US05332753
To 2',4'-dichloropropiophenone (2.03 g; 0.01 mole) in methylene chloride (20 ml) was added excess bromine in methylene chloride (10 ml) dropwise at 20° C. The methylene chloride layer was washed with sodium sulphite solution and water, separated, dried (MgSO4) and evaporated. The residue was dissolved in ethanol (20 ml) and thioformamide (0.61 g; 0.01 mole) was added and the mixture stirred at 20° C. for 16 hours to give 4-(2',4'-dichlorophenyl)-5-methylthiazole hydrobromide (1.72 g; 53%).

reactant | 2',4'-dichloropropiophenone | 0.01 mole, 2.03 g | ClC1=C(C=CC(=C1)Cl)C(CC)=O | C9H8Cl2O
reactant | bromine | BrBr | Br2
reactant | thioformamide | 0.01 mole, 0.61 g | C(=S)N | CH3NS
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(2',4'-dichlorophenyl)-5-methylthiazole hydrobromide | 1.72 g, 53% | Br.ClC1=C(C=CC(=C1)Cl)C=1N=CSC1C | InChI=1S/C10H7Cl2NS.BrH/c1-6-10(13-5-14-6)8-3-2-7(11)4-9(8)12;/h2-5H,1H3;1H
